US07626056B2
Potassium-t-butoxide (16.10 g, 144 mmol) was added to a stirred, cooled (0° C.) mixture of TOSMIC (15.84 g, 81 mmol) and 4-[(cyclopropylmethyl)thio]cyclohexanone (11.5 g, 62.4 mmol) in DME (125 ml) and the mixture was stirred at room temperature for 3 h. The mixture was cooled, diluted with ethyl acetate, washed with brine, dried, filtered and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a Biotage 65i cartridge, eluting with EtOAc/isohexane to give two separated isomers. Combined yield of 4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile (7.1 g, 36.3 mmol, 58.3% yield)

reactant | Potassium-t-butoxide | 144 mmol, 16.10 g | CC(C)([O-])C.[K+]
reactant | TOSMIC | 81 mmol, 15.84 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | 4-[(cyclopropylmethyl)thio]cyclohexanone | 62.4 mmol, 11.5 g | C1(CC1)CSC1CCC(CC1)=O | C10H16OS
solvent | DME | 125 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(cyclopropylmethyl)thio]cyclohexanecarbonitrile | 36.3 mmol, 7.1 g, 58.3% yield | C1(CC1)CSC1CCC(CC1)C#N | C11H17NS
